US05654392
2,5-Dichloro-2',5'-dimethylbenzophenone
To p-xylene (120 ml, 0.98 mol) was added aluminum chloride (32 g, 0.24 mol) at room temperature. To this mixture 2,5-dichlorobenzoyl chloride (30 g, 0.14 mol) was added slowly. The reaction was exothermic and hydrogen chloride evolved from the reddish solution. After the addition, the mixture was stirred for 10 min and then hydrolysed by slow addition of water. The aqueous layer was extracted with ether. The organic layer was combined with ethereal extract and washed with water, saturated sodium bicarbonate, brine, respectively, and then dried with magnesium sulfate. After the removal of solvent, the residue was recrystallized from methanol twice and then from hexane to give 36.8 g (92%) crystals (mp 58°-61° C.).

reactant | p-xylene | 0.98 mol, 120 ml | CC=1C=CC(=CC1)C | C8H10
reactant | aluminum chloride | 0.24 mol, 32 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,5-dichlorobenzoyl chloride | 0.14 mol, 30 g | ClC1=C(C(=O)Cl)C=C(C=C1)Cl | C7H3Cl3O
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | 2,5-Dichloro-2',5'-dimethylbenzophenone | 36.8 g, 92% | ClC1=C(C(=O)C2=C(C=CC(=C2)C)C)C=C(C=C1)Cl | C15H12Cl2O
